US05889002
3-Benzylamino-6-chloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and benzyl isothiocyanate by a procedure analogous to the procedure described in example 3Bc-d; mp 223°-226° C.; 1H-NMR (DMSO-d6): δ 4.42 (d, 2H), 7.05 (s, 1H), 7.30 (m, 5H), 7.78 (br t, 1H), 11.22 (br s, 1H).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | benzyl isothiocyanate | C(C1=CC=CC=C1)N=C=S | C8H7NS
product | 3-Benzylamino-6-chloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | C(C1=CC=CC=C1)NC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C12H10ClN3O2S2
